US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (100 mg, 0.14 mmol) in THF (3 mL) was added polystyrene-carbodiimide (261 mg, 0.29 mmol), 1-hydroxybenzotriazole hydrate (39 mg, 0.29 mmol) and aniline (127 mg, 1.43 mmol). The reaction mixture was stirred at room temperature under nitrogen for 6 h. The reaction was filtered through a micro filter. The crude material was purified by preparative TLC (silica gel, 90:10 chloroform/methanol) and preparative HPLC (10:90 acetonitrile/water to 100% acetonitrile with 0.05% TFA over 50 min) to afford (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-phenyl-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide as a mixture of diastereomers (5.0 mg, 4%) and as a red solid: 1H NMR (500 MHz, CDCl3) δ 14.25 (s, 0.3H), 14.19 (s, 0.7H), 11.64 (br s, 1H), 8.28 (s, 0.3H), 8.24 (s, 0.7H), 7.50-7.42 (m, 3H), 7.38-7.32 (m, 3H), 7.16 (t, J=14.0 Hz, 2H), 6.91 (d, J=8.5 Hz, 0.3H), 6.86 (d, J=8.5 Hz, 0.7H), 6.54 (s, 1H), 6.20 (s, 0.3H), 6.18 (s, 0.7H), 5.85 (s, 1H), 5.18-5.13 (m, 1H), 4.98 (d, J=8.5 Hz, 1H), 4.67-4.62 (m, 1H), 3.81 (s, 3H), 3.79 (s, 2H), 3.60 (s, 3H), 3.56-3.51 (m, 2H), 3.44 (s, 2H), 3.38 (s, 1H), 3.15-3.10 (m, 1H), 2.51 (s, 3H), 1.37 (d, J=6.0 Hz, 3H); MS (ESI−) m/z 757 (M−H); HPLC 97.0% (AUC), tR 12.95 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.14 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 1-hydroxybenzotriazole hydrate | 0.29 mmol, 39 mg | O.ON1N=NC2=C1C=CC=C2
reactant | aniline | 1.43 mmol, 127 mg | NC1=CC=CC=C1 | C6H7N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-phenyl-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)NC2=CC=CC=C2 | C39H38N2O14
